US06686352B2
a) 2-Cyclopropyl-5,7-dihydro-6H-pyrimido[5,4-d][1]benzazepine-6-one
Analogous to Scheme 1 from 4-[(dimethylamino)methylene]-3,4-dihydro-1H-benzazepine-2,5-dione and cyclopropanecarboxamidine hydrochloride. Yield: 62%.

reactant | 4-[(dimethylamino)methylene]-3,4-dihydro-1H-benzazepine-2,5-dione | CN(C)C=C1CC(NC2=C(C1=O)C=CC=C2)=O | C13H14N2O2
reactant | cyclopropanecarboxamidine hydrochloride | Cl.C1(CC1)C(=N)N
product | 2-Cyclopropyl-5,7-dihydro-6H-pyrimido[5,4-d][1]benzazepine-6-one | Yield: 62% | C1(CC1)C=1N=CC=2CC(NC3=C(C2N1)C=CC=C3)=O | C15H13N3O
